US07345067B2
15.4) (4-{Ethyl-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethyl]-amino}-2,6-dimethyl-phenoxy)-acetic acid ethyl ester
0.102 g (0.21 mmol) of the above prepared (2,6-dimethyl-4-{[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethyl]-amino}-phenoxy)-acetic acid ethyl ester was dissolved in 1.5 ml of abs. DMSO and treated with 0.066 g (0.43 mmol) of ethyl iodide and 0.032 g (0.23 mmol) of K2CO3. After vigorously stirring for 18 h at ambient temperature, the reaction mixture was poured onto crashed ice/aqueous 10% KHSO4, extracted twice with EtOAc, the organic layer was washed with water and brine, dried over magnesium sulfate, and evaporated to dryness. Flash chromatography (SiO2, hexane/EtOAc=8/2), yielded finally 0.067 g of the title compound as yellow oil, MS: 507.6 (MH)+.

reactant | (2,6-dimethyl-4-{[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethyl]-amino}-phenoxy)-acetic acid ethyl ester | C(C)OC(COC1=C(C=C(C=C1C)NCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C)C)=O | C24H25F3N2O3S
reactant | ethyl iodide | 0.43 mmol, 0.066 g | C(C)I | C2H5I
reactant | K2CO3 | 0.23 mmol, 0.032 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMSO | CS(=O)C | C2H6OS
product | (4-{Ethyl-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethyl]-amino}-2,6-dimethyl-phenoxy)-acetic acid ethyl ester | 0.067 g | C(C)OC(COC1=C(C=C(C=C1C)N(CC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C)CC)C)=O | C26H29F3N2O3S
